US07153857B2
To a stirred suspension of 1-(methylsulfonyl)-4-(4-bromophenyl)piperazine (5.77 g, 18.1 mmol), phenyl acetylene (3.97 mL, 36.1 mmol), Copper (I) iodide (38 mg, 0.2 mmol) and triphenylphosphine (95 mg, 0.36 mmol) in piperidine (72 mL) at 20° C. was added dichlorobis(triphenylphosphine)palladium(II) (38 mg, 54 mmol). The reaction was warmed to 105° C. and stirred for 14 hours under an inert atmosphere. Volatiles were removed in vacuo, and the solid residue was dissolved in CH2Cl2 (200 mL) and washed with aqueous hydrochloric acid (2M) to pH 2. The layers were then separated and the organic extract dried, (sat. Brine and MgSO4), filtered and evaporated to dryness in vacuo. The residue was triturated in CH2Cl2, and filtered to give 1-(methylsulfonyl)-4-[4-(phenylethynyl)phenyl]piperazine as a flaky white solid (1.99 g, 5.86 mmol, 32%).

reactant | 1-(methylsulfonyl)-4-(4-bromophenyl)piperazine | 18.1 mmol, 5.77 g | CS(=O)(=O)N1CCN(CC1)C1=CC=C(C=C1)Br | C11H15BrN2O2S
reactant | phenyl acetylene | 36.1 mmol, 3.97 mL | C1(=CC=CC=C1)C#C | C8H6
solvent | piperidine | 72 mL | N1CCCCC1 | C5H11N
catalyst | Copper (I) iodide | 0.2 mmol, 38 mg | [Cu]I
catalyst | dichlorobis(triphenylphosphine)palladium(II) | 54 mmol, 38 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | triphenylphosphine | 0.36 mmol, 95 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
product | 1-(methylsulfonyl)-4-[4-(phenylethynyl)phenyl]piperazine | 5.86 mmol, 1.99 g, 32% | CS(=O)(=O)N1CCN(CC1)C1=CC=C(C=C1)C#CC1=CC=CC=C1 | C19H20N2O2S
